US07563910B2
5-(2-Chloro-5-trifluoromethyl-phenyl)-1-(rac)-[1,4]dioxan-2-ylmethyl-2-methyl-1H-pyrrole-3-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide
The title compound was synthesized in analogy to example 7, using 3-oxo-butyric acid methyl ester as compound of formula R, 2-bromo-1-[2-chloro-5-(trifluoromethyl)-phenyl]-ethanone as compound of formula S, 1,4-dioxane-2-methanamine as R3—(CH2)m—NH2 and (1R,2R)-2-aminocyclohexanol as R1R2NH, MS (ISP) 501.4 (M+H)+.

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 2-bromo-1-[2-chloro-5-(trifluoromethyl)-phenyl]-ethanone | BrCC(=O)C1=C(C=CC(=C1)C(F)(F)F)Cl | C9H5BrClF3O
reactant | 1,4-dioxane-2-methanamine | O1C(COCC1)CN | C5H11NO2
reactant | (1R,2R)-2-aminocyclohexanol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
product | 5-(2-Chloro-5-trifluoromethyl-phenyl)-1-(rac)-[1,4]dioxan-2-ylmethyl-2-methyl-1H-pyrrole-3-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide | O[C@H]1[C@@H](CCCC1)NC(=O)C1=C(N(C(=C1)C1=C(C=CC(=C1)C(F)(F)F)Cl)CC1OCCOC1)C | C24H28ClF3N2O4
